US08729102B2
B) methyl 3-(3,3-difluoro-2-hydroxypropoxy)isoxazole-5-carboxylate
A mixture of methyl 3-[(2-hydroxybut-3-en-1-yl)oxy]isoxazole-5-carboxylate (2.71 g), t-butyldimethylsilyl trifluoromethanesulfonate (4.03 g), 2,6-dimethylpyridine (1.64 g) and THF (30 mL) was stirred at room temperature for 2 hr. To the reaction mixture was added 1M hydrochloric acid, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated aqueous sodium hydrogen carbonate solution, and then saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was mixed with tetraoxide osmium (7% immobilized catalyst, 2.31 g), sodium periodate (13.6 g), acetonitrile (30 mL), acetone (30 mL) and water (20 mL), and the obtained mixture was stirred at room temperature for 3 days. The precipitate was removed by filtration, and the filtrate was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was mixed with toluene (20 mL), diethylaminosulfur trifluoride (5.04 mL) was slowly added dropwise thereto at room temperature, and the obtained mixture was stirred at room temperature for 2 hr. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was mixed with THF (20 mL), tetrabutylammonium fluoride (1.0M THF solution, 25.4 mL) was slowly added dropwise thereto at 0° C., and the obtained mixture was stirred at 0° C. for 30 min. To the reaction mixture was added 1M hydrochloric acid, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a white powder (370 mg).

reactant | methyl 3-[(2-hydroxybut-3-en-1-yl)oxy]isoxazole-5-carboxylate | 2.71 g | OC(COC1=NOC(=C1)C(=O)OC)C=C | C9H11NO5
reactant | t-butyldimethylsilyl trifluoromethanesulfonate | 4.03 g | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | 2,6-dimethylpyridine | 1.64 g | CC1=NC(=CC=C1)C | C7H9N
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | methyl 3-(3,3-difluoro-2-hydroxypropoxy)isoxazole-5-carboxylate | 370 mg | FC(C(COC1=NOC(=C1)C(=O)OC)O)F | C8H9F2NO5
